US08709615B2
5-Chloro-2-phenylpyridine (16 g, 84 mmol) and Ni(dppe)Cl2 (0.891 g, 1.687 mmol) were added to 300 mL of THF and the reaction mixture was degassed with nitrogen for 20 min. before being cooled to 0° C. Ethylmagnesium bromide (169 mL, 169 mmol) was added dropwise over a period of 60 min. and the reaction mixture stirred for and additional 3 h at before warming to room temperature overnight. The reaction mixture was recooled to 0° C. and quenched with 250 mL of water, extracted with EtOAc and the organic layer dried over sodium sulfate and filtered. The crude material was chromatographed on silica with 95/5 hexane/EtOAc to give 2.9 g (19%) of 5-ethyl-2-phenylpyridine as a white solid.

reactant | 5-Chloro-2-phenylpyridine | 84 mmol, 16 g | ClC=1C=CC(=NC1)C1=CC=CC=C1 | C11H8ClN
reactant | Ethylmagnesium bromide | 169 mmol, 169 mL | C(C)[Mg]Br
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 5-ethyl-2-phenylpyridine | 2.9 g, 19% | C(C)C=1C=CC(=NC1)C1=CC=CC=C1 | C13H13N
